US08012976B2
A mixture of methyl 2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (87 mg) in 85% hydrazine monohydrate (4 mL) and methanol (10 mL) was stirred at room temperature for overnight. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give the crude. The crude product was purified by pre-HPLC to give 8-(1-methyl-1H-imidazol-2-yl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (34 mg, yield 42%) as a yellow solid. 1H-NMR (400 MHz, CD3OD) δ (ppm): 3.41 (s, 3H), 4.49 (d, 1H), 5.35 (d, 1H), 7.18-7.20 (m, 2H), 7.26-7.29 (m, 1H), 7.33-7.35 (m, 3H), 7.40 (d, 1H), 7.61 (d, 1H), 7.71-7.75 (m, 2H); LC-MS (ESI) m/z: 344 (M+1)+.

reactant | methyl 2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | CN1C(=NC=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC | C21H19N3O3
reactant | ethyl 2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 87 mg | CN1C(=NC=C1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OCC | C22H21N3O3
reactant | hydrazine monohydrate | 4 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 8-(1-methyl-1H-imidazol-2-yl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 34 mg, yield 42% | CN1C(=NC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C20H17N5O
